US05821387
A mixture of 1-naphthyl-2-nitropropene (taken directly from the synthesis of the last paragraph without purification, 10.4 g, 0.8 mol), iron powder (320.0 g, 5.8 g-atoms), ferric chloride hexahydrate (0.8 g) and water (800 mL) was mechanically stirred and heated to 85° C. Hydrochloric acid (37% aqueous, 120 mL, 1.2 mol) was then added dropwise over 5 hours while the temperature was maintained at 85-90° C. The mixture was filtered, the filtrate was extracted with methylene chloride (100 mL), and the residual solids were extracted with methylene chloride (2×200 mL). The combined organic extracts were washed with water, dried over MgSO4 and evaporated to give 139.6 g of 1-naphthylacetone that was shown by gas-liquid chromatography to be approximately 95% pure (91% yield). Further purification was achieved by recrystallization from methanol at -78° C. 1H NMR 2.10 (s, 3 H), 4.11 (s, 2 H), 7.4 (m, 4 H), 7.8 (m, 3 H).

reactant | 1-naphthyl-2-nitropropene | C1(=CC=CC2=CC=CC=C12)C=C(C)[N+](=O)[O-] | C13H11NO2
reactant | Hydrochloric acid | 1.2 mol, 120 mL | Cl | ClH
reactant | water | 800 mL | O | H2O
catalyst | iron | 320.0 g | [Fe] | Fe
product | 1-naphthylacetone | 139.6 g, 91% yield | C1(=CC=CC2=CC=CC=C12)CC(C)=O | C13H12O
